US06028033
1-(Ethoxycarbonyl)amino-3,4-dihydro-4-methyl-6-(3'-trifluoromethylphenyl)-2-(1H)-pyridone (2.159):
A solution of 4 g (16 mmol) of 3,4-dihydro-4-methyl-6-(3'-trifluoromethylphenyl)-2-(1H)-pyrone in 100 ml dichloromethane is treated with 5.6 ml of triethylamine and 7.31 g (70 mmol) of ethyl hydrazinoformate, and the mixture is refluxed for 8 hours. After cooling, the reaction solution is washed alternately with distilled H2O, dilute HCl and distilled H2O, dried over Na2SO4 and concentrated on a rotary evaporator. The oil which remains is taken up in 150 ml of toluene, the solution is treated with a spatula-tip full of PTSA and the mixture is refluxed on a water separator until the reaction is complete. For working-up, the reaction solution is washed first with dilute K2CO3 solution and then with distilled H2O and subsequently dried over Na2SO4. The oil obtained after the solvent has been evaporated in vacuo is purified by column chromatography on silica gel (eluent: toluene:acetone=95:5).

reactant | 3,4-dihydro-4-methyl-6-(3'-trifluoromethylphenyl)-2-(1H)-pyrone | 16 mmol, 4 g | CC1CC(OC(=C1)C1=CC(=CC=C1)C(F)(F)F)=O | C13H11F3O2
reactant | triethylamine | 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl hydrazinoformate | 70 mmol, 7.31 g | N(N)C(=O)OCC | C3H8N2O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(Ethoxycarbonyl)amino-3,4-dihydro-4-methyl-6-(3'-trifluoromethylphenyl)-2-(1H)-pyridone | C(C)OC(=O)NN1C(CC(C=C1C1=CC(=CC=C1)C(F)(F)F)C)=O | C16H17F3N2O3
